US04442115
A solution of crude 1-benzyl-1H-tetrazole-5-carbonyl chloride (prepared from 2.4 g of potassium 1-benzyl-1H-tetrazole-5-carboxylate in the manner hereinbefore described in Reference Example 3) in dry methylene chloride (50 ml) was added to a stirred solution of 3-amino-2-hydroxyacetophenone (1.5 g) and pyridine (0.9 g) in dry methylene chloride (40 ml) at 10° C. After standing at room temperature overnight, the solution was evaporated in vacuo and the resulting solid residue was recrystallised from a large volume of ethanol to give 3'-acetyl-1-benzyl-2'-hydroxy-1H-tetrazole-5-carboxanilide (1.5 g), in the form of pale yellow needles, m.p. 155°-157° C.

reactant | 1-benzyl-1H-tetrazole-5-carbonyl chloride | C(C1=CC=CC=C1)N1N=NN=C1C(=O)Cl | C9H7ClN4O
reactant | potassium 1-benzyl-1H-tetrazole-5-carboxylate | 2.4 g | C(C1=CC=CC=C1)N1N=NN=C1C(=O)[O-].[K+]
reactant | 3-amino-2-hydroxyacetophenone | 1.5 g | CC(=O)C1=C(C(=CC=C1)N)O | C8H9NO2
reactant | pyridine | 0.9 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3'-acetyl-1-benzyl-2'-hydroxy-1H-tetrazole-5-carboxanilide | 1.5 g | C(C)(=O)C=1C(=C(NC(=O)C2=NN=NN2CC2=CC=CC=C2)C=CC1)O | C17H15N5O3
